US08247436B2
Step 1: 2-(3,3,3-Trifluoro-2-hydroxy-2-methylpropyl)isoindoline-1,3-dione
A mixture comprising 3,3,3-trifluoro-2-hydroxy-2-methyl-propyl-ammonium (0.9 g), phthalic anhydride (1.039 g) and DIPEA (2.188 ml) in chloroform (30 ml) was heated at 70° C. for 5 hours. After cooling to RT, the mixture was washed with water and passed through a phase separator. The organic phase was reduced to dryness. The crude product was purified by chromatography on silica, eluting in a 0% to 30% iso-hexane:EtOAc removed to give the title product; 1H NMR (400 MHz, Methanol-d4) δ 7.92 (2H, m), 7.85 (2H, m), 3.95 (2H, m), 1.36 (3H, s).

reactant | 3,3,3-trifluoro-2-hydroxy-2-methyl-propyl-ammonium | 0.9 g | FC(C(C[NH3+])(C)O)(F)F
reactant | phthalic anhydride | 1.039 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | DIPEA | 2.188 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,3,3-Trifluoro-2-hydroxy-2-methylpropyl)isoindoline-1,3-dione | FC(C(CN1C(C2=CC=CC=C2C1=O)=O)(C)O)(F)F | C12H10F3NO3
